US08110571B2
To a solution of 7 g of 6-ethoxy-1,3-benzothiazol-2-amine (commercial) in 65 cm3 of glacial acetic acid are added 130 cm3 of a 48% solution of hydrobromic acid in water. The solution is refluxed for about 20 hours. After concentrating to dryness under reduced pressure (13 kPa), the residue is taken up in 50 cm3 of water and the pH of the solution is brought to about 8 by addition of solid sodium hydrogen carbonate. The mixture is extracted with four times 250 cm3 of ethyl acetate and the combined organic phases are washed with three times 20 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). The solid obtained is taken up in 20 cm3 of dichloromethane, filtered off by suction, washed with three times 10 cm3 of dichloromethane and then three times 20 cm3 of diethyl ether, and dried under reduced pressure (13 kPa) over phosphorus pentoxide. 5.3 g of 2-amino-1,3-benzothiazol-6-ol are thus obtained in the form of a pink powder, the characteristics of which are as follows:

reactant | 6-ethoxy-1,3-benzothiazol-2-amine | 7 g | C(C)OC1=CC2=C(N=C(S2)N)C=C1 | C9H10N2OS
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 65 cm3 | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
product | 2-amino-1,3-benzothiazol-6-ol | 5.3 g | NC=1SC2=C(N1)C=CC(=C2)O | C7H6N2OS
